### PR TITLE
feat(ir): add OperationPtr.getRegions

### LINKED ISSUE #664: Add `OperationPtr.getRegions`

### PR DESCRIPTION
**Pull request by sueszli**
Closes: https://github.com/opencompl/veir/issues/664

Add regions (plural) accessors accessors mirroring `getOpResults`.

Start using them in `DominanceAnalysis` and add some `#guard` based unit tests.

### CODE REVIEW

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -801,6 +801,51 @@ theorem getRegion!_eq_of_OperationPtr_get!_eq {op : OperationPtr} :
     op.getRegion! ctx = op.getRegion! ctx' := by
   grind [get!, getRegion!]
 
+def getRegions (op : OperationPtr) (ctx : IRContext OpInfo)
+  (inBounds : op.InBounds ctx := by grind) : Array RegionPtr :=
+  (op.get ctx inBounds).regions
```
Comment (math-fehr) [inline Veir/IR/Basic.lean:806]:
```suggestion
def getRegions (op : OperationPtr) (ctx : IRContext OpInfo)
    (inBounds : op.InBounds ctx := by grind) : Array RegionPtr :=
  (op.get ctx inBounds).regions
```

**Review by math-fehr — APPROVED** [review]
Nice, thanks a lot!

**Comment by sueszli** [comment]
Thanks for reviewing
